US04371696
Methyl 2-(4-picolylthio)acetate
Sodium methoxide (2.16 g., 40 mmoles) is dissolved in 24 ml. of methanol, stirring under nitrogen, and the solution cooled in an ice bath. 4-Picolyl chloride hydrochloride (3.38 g., 20 mmoles), finely divided and suspended in approximately 20 ml. of methanol, is added dropwise over approximately 15 minutes. A solution of methyl 2-mercaptoacetate (2.12 g., 20 mmoles) in 4 ml. of methanol is then added over approximately 5 minutes. The reaction mixture is warmed slowly and left to stir under nitrogen for 14 hours at room temperature. The reaction is filtered with diatomaceous earth. Solids are repulped with an additional 75 ml. of methanol. The methanol filtrates are combined and concentrated to yield title product.

reactant | Sodium methoxide | 40 mmoles, 2.16 g | C[O-].[Na+]
reactant | 4-Picolyl chloride hydrochloride | 20 mmoles, 3.38 g | Cl.N1=CC=C(C=C1)CCl
reactant | methyl 2-mercaptoacetate | 20 mmoles, 2.12 g | SCC(=O)OC | C3H6O2S
solvent | methanol | CO | CH4O
product | Methyl 2-(4-picolylthio)acetate | N1=CC=C(C=C1)CSCC(=O)OC | C9H11NO2S
